US04254119
In a similar procedure to that of Example 2-1, 7β-[2-(2-amino-5-chloro-4-thiazolyl)glyoxylylamino]-3-cephem-4-carboxylic acid (276 mg) is treated with methoxyamine hydrochloride (58 mg) in methanol (5 ml) in the presence of sodium carbonate (74 mg) to afford 7β-[2-(2-amino-5-chloro-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid. Similarly prepared are compounds of Table 1.

reactant | 7β-[2-(2-amino-5-chloro-4-thiazolyl)glyoxylylamino]-3-cephem-4-carboxylic acid | 276 mg | NC=1SC(=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=O)Cl | C12H9ClN4O5S2
reactant | methoxyamine hydrochloride | 58 mg | Cl.CON
reactant | sodium carbonate | 74 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 7β-[2-(2-amino-5-chloro-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | NC=1SC(=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC)Cl | C13H12ClN5O5S2
